US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-5-(hydroxymethyl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (Diastereoisomer 4)
Lithium tetrahydroborate (1.6 mg, 0.071 mmol) was added to ethyl 7-(3,5-dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-5-carboxylate (20 mg, 0.05 mmol), from Example 20, in tetrahydrofuran (3 mL). The reaction was stirred at 70° C. for 3 h, then partitioned between water and ethyl acetate. The organic layer was concentrated and the crude product was purified by FCC on silica gel eluting a hexane:ethyl acetate gradient to obtain the product as a mixture of diastereomers. The isomers were separated by prep chiral column chromatography using the following conditions: Column: phenomenex Lux Cellulose C-2 5 μm, 21, 2×250 mm, Mobile phase: 45% EtOH/Hexanes, Gradient condition: isocratic at 18 mL/min, Loading: 13.5 mg in 900 μL, run time: 18 min, peak time: 9.0, 12.1, 24.2 and 15.0 min.

reactant | Lithium tetrahydroborate | 0.071 mmol, 1.6 mg | [BH4-].[Li+]
reactant | ethyl 7-(3,5-dimethylisoxazol-4-yl)-2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-5-carboxylate | 0.05 mmol, 20 mg | CC1=NOC(=C1C1=CC=C2C=3N(C(C(OC31)C(=O)OCC)C3=NC=CC=C3)C(N2)=O)C | C22H20N4O5
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 7-(3,5-Dimethylisoxazol-4-yl)-5-(hydroxymethyl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | CC1=NOC(=C1C1=CC=C2C=3N(C(C(OC31)CO)C3=NC=CC=C3)C(N2)=O)C | C20H18N4O4
